US05973141
To a solution of methyl pheophorbide-a (100 mg, 0.17 mmol) in 2,4,6-collidine (25 mL, distilled) was added distilled water (6 μL, 0.33 mmol, 2 equiv.) and the mixture was refluxed under argon with stirring. The reaction was monitored by HPLC (hexaneacetone, 90:10-mobile phase, LiChrospherCN-column, detection at 425 and 410 nm). After 10 min the reaction was shown to have reached 100% completion by HPLC peak area. The solution was cooled to room temperature after 30 min of reflux and solvent removed under reduced pressure. The residue was precipitated from methylene chloride-methanol to give methyl pyropheophorbide-a (80 mg, 89%).

reactant | methyl pheophorbide-a | 0.17 mmol, 100 mg | CCC1=C(C2=CC3=C(C(=C(N3)C=C4N=C(C5=C6NC(=CC1=N2)C(=C6C(=O)C5C(=O)OC)C)C(C4C)CCC(=O)OC)C)C=C)C | C36H38N4O5
reactant | water | 0.33 mmol, 6 μL, 2 equiv. | O | H2O
solvent | 2,4,6-collidine | 25 mL | N1=C(C=C(C=C1C)C)C | C8H11N
product | methyl pyropheophorbide-a | 80 mg, 89% | CCC1=C(C2=CC3=C(C(=C(N3)C=C4N=C(C5=C6NC(=CC1=N2)C(=C6C(=O)C5)C)[C@H]([C@@H]4C)CCC(=O)OC)C)C=C)C | C34H36N4O3
